US08048909B2
Methyl 4-ethyl-1H-pyrrole-3-carboxylate
Using p-toluenesulfonylmethyl isocyanide (10.1 g), methyl 2-pentenoate (6.01 g) and potassium tert-butoxide (7.01 g), a procedure as in Reference Example 39 was performed to give the title compound as pale-yellow crystals (yield 5.05 g, 64%).

reactant | p-toluenesulfonylmethyl isocyanide | 10.1 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | methyl 2-pentenoate | 6.01 g | C(C=CCC)(=O)OC | C6H10O2
reactant | potassium tert-butoxide | 7.01 g | CC(C)([O-])C.[K+]
product | Methyl 4-ethyl-1H-pyrrole-3-carboxylate | yield 5.05 g, 64% | C(C)C=1C(=CNC1)C(=O)OC | C8H11NO2
